### PR TITLE
feat: another lemma about derivatives of parametric integrals

### PR DESCRIPTION
**Pull request by grunweg**
On the path towards proving that integrating smooth functions is smooth.

From the sphere-eversion project; I am just upstreaming this.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 1]
```diff
@@ -247,6 +249,129 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
 
 section
 
+open Real ContinuousLinearMap Asymptotics Interval
+open Set
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:253]: Why two lines ?

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 2]
```diff
@@ -247,6 +249,129 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+      suffices HasFDerivAt (φ x₀) (toSpanSingleton ℝ (F x₀ (s x₀))) (s x₀) from this.comp _ s_diff
+      rw [hasFDerivAt_iff_hasDerivAt, toSpanSingleton_apply, one_smul]
+      exact intervalIntegral.integral_hasDerivAt_right (hF_int_ball hx₀ ha hsx₀)
+        ⟨Ioo a₀ b₀, Ioo_nhds, hF_meas x₀ hx₀⟩ hF_cont
+    have D₃ : HasFDerivAt (𝕜 := ℝ) (fun x ↦ ∫ t in s x₀..s x, F x t - F x₀ t) 0 x₀ := by
+      refine IsBigO.hasFDerivAt (𝕜 := ℝ) ?_ one_lt_two
+      have O₁ : (fun x ↦ ∫ s in s x₀..s x, bound s) =O[𝓝 x₀] fun x ↦ ‖x - x₀‖ := by
+        have : (fun x ↦ s x - s x₀) =O[𝓝 x₀] fun x ↦ ‖x - x₀‖ := s_diff.isBigO_sub.norm_right
+        refine IsBigO.trans ?_ this
+        change ((fun t ↦ ∫ s in s x₀..t, bound s) ∘ s) =O[𝓝 x₀] ((fun t ↦ t - s x₀) ∘ s)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:322]: What's the change for?

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 3]
```diff
@@ -8,6 +8,8 @@ import Mathlib.MeasureTheory.Integral.DominatedConvergence
 import Mathlib.MeasureTheory.Integral.Bochner.Set
 import Mathlib.Analysis.NormedSpace.HahnBanach.SeparatingDual
 
+import Mathlib.MeasureTheory.Integral.IntervalIntegral.FundThmCalculus
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:11]: please also alphabetize the import list.
```suggestion
import Mathlib.MeasureTheory.Integral.IntervalIntegral.FundThmCalculus
```

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 4]
```diff
@@ -247,6 +249,129 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
 
 section
 
+open Real ContinuousLinearMap Asymptotics Interval
+open Set
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [CompleteSpace E]
+  {H : Type*} [NormedAddCommGroup H] [NormedSpace ℝ H]
+
+theorem hasFDerivAt_parametric_primitive_of_lip' (F : H → ℝ → E) (F' : ℝ → H →L[ℝ] E) {x₀ : H}
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:258]: I'm not sure what this is primed, as I didn't find a similarly named result in the library.

Also, the statement of this is sufficiently complicated that it *definitely* needs a good docstring.

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 5]
```diff
@@ -247,6 +249,129 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+    {s' : H →L[ℝ] ℝ} (ha : a ∈ Ioo a₀ b₀) (hsx₀ : s x₀ ∈ Ioo a₀ b₀)
+    (hF_meas : ∀ x ∈ ball x₀ ε, AEStronglyMeasurable (F x) (volume.restrict (Ioo a₀ b₀)))
+    (hF_int : IntegrableOn (F x₀) (Ioo a₀ b₀)) (hF_cont : ContinuousAt (F x₀) (s x₀))
+    (hF'_meas : AEStronglyMeasurable F' (volume.restrict <| Ι a (s x₀)))
+    (h_lipsch :
+      ∀ᵐ t ∂volume.restrict <| Ioo a₀ b₀,
+        LipschitzOnWith (nnabs <| bound t) (fun x ↦ F x t) (ball x₀ ε))
+    (bound_integrable : IntegrableOn bound (Ioo a₀ b₀)) (bound_cont : ContinuousAt bound (s x₀))
+    (bound_nonneg : ∀ t, 0 ≤ bound t)
+    -- This assumption could be weakened, but this way is much more convenient.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:269]: weakened to ...?

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 6]
```diff
@@ -247,6 +249,129 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+      dsimp [φ]
+      rw [intervalIntegral.integral_sub int₂ int₁, add_sub, add_right_comm, sub_sub,
+        intervalIntegral.integral_add_adjacent_intervals (hF_int_ball hx ha hsx₀) int₂,
+        ← intervalIntegral.integral_add_adjacent_intervals (hF_int_ball hx₀ ha hsx₀) int₁]
+      abel
+    apply HasFDerivAt.congr_of_eventuallyEq _ this
+    simpa [Pi.sub_def] using ((D₁.add D₂).add D₃).sub (hasFDerivAt_const (φ x₀ (s x₀)) x₀)
+
+@[inherit_doc] local notation:70 u " ⬝ " φ =>
+  ContinuousLinearMap.comp (ContinuousLinearMap.toSpanSingleton ℝ u) φ
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:369]: seems an odd place to put this. Typo?

**Review by j-loreaux — COMMENTED** [review]
The proof of this is rather involved. Please add comments explaining the key steps. Even if the idea is relatively straightforward, there's just so much here that it's hard to parse what's going on.
